US08357679B2
1-(4-(4-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)phenyl)-3-isopropylurea
(4-Aminophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)-piperazin-1-yl)methanone (0.217 mmol, 0.1 g) and diisopropylethylamine (0.737 mmol, 0.122 mL, 0.095 g) were stirred in dichloromethane at room temperature. Triphosgene (0.080 mmol, 0.024 g) was added and the reaction mixture stirred for 30 minutes. Isopropylamine (0.433 mmol, 0.037 mL, 0.026 g) was added and the reaction stirred for a further 30 minutes. The reaction mixture was concentrated under vacuum and purified by reverse phase acidic preparative HPLC to afford the title compound (10 mg).

reactant | (4-Aminophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)-piperazin-1-yl)methanone | 0.217 mmol, 0.1 g | NC1=CC=C(C=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C21H21F6N3O2
reactant | diisopropylethylamine | 0.737 mmol, 0.122 mL, 0.095 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Triphosgene | 0.080 mmol, 0.024 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | Isopropylamine | 0.433 mmol, 0.037 mL, 0.026 g | C(C)(C)N | C3H9N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(4-(4-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)phenyl)-3-isopropylurea | 10 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCN(CC2)C(=O)C2=CC=C(C=C2)NC(=O)NC(C)C)C=C1)(F)F | C25H28F6N4O3
